US06780870B2
4-[4-(Methylsulfonyl)phenyl]-N-(phenylmethyl)-6-(trifluoromethyl)-2-pyrimidinamine
To a stirred solution of 2-(Methylsulfonyl)-4-[4-(methylsulfonyl)phenyl]-6-(trifluoromethyl)pyrimidine (0.10 g, 0.26 mmol) in MeCN (4 ml) was added benzylamine (5 eq) and the resultant solution heated under reflux for 24 h. The cooled reaction mixture was concentrated in vacuo and purified by SPE chromatography with cyclohexane:ethyl acetate (3:1). Concentration in vacuo of the combined fractions containing pure product gave the title compound as a white solid (0.090 g, 80%).

reactant | 2-(Methylsulfonyl)-4-[4-(methylsulfonyl)phenyl]-6-(trifluoromethyl)pyrimidine | 0.26 mmol, 0.10 g | CS(=O)(=O)C1=NC(=CC(=N1)C1=CC=C(C=C1)S(=O)(=O)C)C(F)(F)F | C13H11F3N2O4S2
reactant | benzylamine | 5 eq | C(C1=CC=CC=C1)N | C7H9N
solvent | MeCN | 4 ml | CC#N | C2H3N
product | 4-[4-(Methylsulfonyl)phenyl]-N-(phenylmethyl)-6-(trifluoromethyl)-2-pyrimidinamine | 0.090 g, 80% | CS(=O)(=O)C1=CC=C(C=C1)C1=NC(=NC(=C1)C(F)(F)F)NCC1=CC=CC=C1 | C19H16F3N3O2S
